US06716861B2
1H-pyrazole-4-sulfonyl chloride
A mixture of 1H-pyrazole-4-sulfonic acid (J. Am. Chem. Soc.; 1955, 77, 6532) (1.0 g, 4.0 mmol) and phosphorous pentachloride (1.6 g, 7.7 mmol) were heated up to 180° C. over the period of an hour. The mixture began to reflux but not fully molten. The reaction mixture was cooled to 130° C. and toluene (5 ml) was added and allowed to cool to room temperature with stirring. The white solid was filtered off. The filtrate solvent was removed under reduced pressure and azeotroped with toluene and DCM to afford the title compound as a colourless oil and impure.

reactant | 1H-pyrazole-4-sulfonic acid | 4.0 mmol, 1.0 g | N1N=CC(=C1)S(=O)(=O)O | C3H4N2O3S
reactant | phosphorous pentachloride | 7.7 mmol, 1.6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1H-pyrazole-4-sulfonyl chloride | N1N=CC(=C1)S(=O)(=O)Cl | C3H3ClN2O2S
